US07737166B2
4-Cyano-N,N,5-trimethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide (#41)
Under nitrogen atmosphere, a dimethyl sulfoxide (3 ml) solution (3S)-3-methylaminopyrrolidine (139 μl, 1.40 mmol) was added at 150° C. to a dimethyl sulfoxide (18 ml) solution of 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-114) (350 mg, 1.08 mmol) and triethylamine (201 μl, 1.30 mmol), followed by stirring at the same temperature for 4 hours. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with chloroform/methanol (4:1, v/v) gave a crude product of the entitled compound as a solid, and the solid was suspended and washed in diisopropyl ether to obtain the entitled compound (147 mg, 34%) as a pale yellow solid.

reactant | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | (3S)-3-methylaminopyrrolidine | 1.40 mmol, 139 μl | CN[C@@H]1CNCC1 | C5H12N2
reactant | dimethyl sulfoxide | 18 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 1.08 mmol, 350 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C2=CC=CC=C2)C | C18H14FN3O2
reactant | triethylamine | 1.30 mmol, 201 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-N,N,5-trimethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)N2C[C@H](CC2)NC)C2=CC=CC=C2)C | C23H25N5O2
